US08865736B2
Synthesis of 3-(Pyrazol-1-ylmethoxy)-benzamide
3-(Pyrazol-1-ylmethoxy)-benzoic acid methyl ester (250 mg, 1.1 eq.) was taken in a pressure vessel along with 5 ml of aq. ammonia, heated at 110° C. for 12 hr. reaction mass was then poured in water (25 ml), extracted with dichloromethane (25 ml×4). Organic layer was dried over sodium sulphate and concentrated to obtain crude solid. Product was purified by column chromatography using 80% EtOAc-DCM as an eluent over 230-400 mesh silica gel. Pure product was obtained as solid powder (50 mg, 19%). 1H NMR (DMSO-d6, 400 MHz with D2O): δ 6.12 (s, 2H), 6.33 (m, 1H), 7.25 (m, 1H), 7.37 (m, 1H), 7.41 (m, 1H), 7.51 (m, 1H), 7.56 (m, 2H), 7.95 (br s, 1H), 7.99 (m, 1H). MS ES+ (218.0, 235.0—Ammonium adduct), HPLC (method 7) Rt=9.08 min.

reactant | 3-(Pyrazol-1-ylmethoxy)-benzoic acid methyl ester | 250 mg, 1.1 eq. | COC(C1=CC(=CC=C1)OCN1N=CC=C1)=O | C12H12N2O3
reactant | ammonia | 5 ml | N | H3N
solvent | water | 25 ml | O | H2O
product | 3-(Pyrazol-1-ylmethoxy)-benzamide | 50 mg, 19% | N1(N=CC=C1)COC=1C=C(C(=O)N)C=CC1 | C11H11N3O2
